US06723722B1
4-Chloro-2-chloromethylpyridine Hydrochloride
A solution of 4-chloro-2-hydroxymethylpyridine (430 mg), thionyl chloride (0.43 ml) and DMF (1 drop) in chloroform (20 ml) was heated under reflux for 2 hours. The reaction mixture was concentrated to obtain the title compound (0.44 g) as a tan powder.

reactant | 4-chloro-2-hydroxymethylpyridine | 430 mg | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | thionyl chloride | 0.43 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloro-2-chloromethylpyridine Hydrochloride | 0.44 g | Cl.ClC1=CC(=NC=C1)CCl | InChI=1S/C6H5Cl2N.ClH/c7-4-6-3-5(8)1-2-9-6;/h1-3H,4H2;1H
